US05405861
To anhydrous ether (40 ml) was added lithium aluminium hydride (0.33 g). To this mixture was added dropwise an anhydrous ether (20 ml) solution of ethyl 2-trifluoromethyl-4-thiazole carboxylate (2 g). The mixture was stirred for 3 hours at room temperature. To the reaction mixture was added dropwise water (20 ml) under cooling with ice to decompose excess amount of the reducing agent. To the resultant reaction mixture were added ethyl acetate (50 ml) and water (25 ml), which was subjected to extraction with ethyl acetate. The organic layer was washed with water (25 ml) and a saturated aqueous solution of sodium chloride (25 ml) successively, followed by drying over magnesium sulfate. The solvent was distilled off, and the residue was subjected to a silica gel chromatography (2.5×30 cm), eluting with ethyl acetate-hexane (3:1). The desired fraction was concentrated to give 2-trifluoromethyl-4-hydroxymethylthiazole (1.1 g) as a pale yellow oily product.

reactant | ether | 40 ml | CCOCC | C4H10O
reactant | lithium aluminium hydride | 0.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | ethyl 2-trifluoromethyl-4-thiazole carboxylate | 2 g | FC(C=1SC=C(N1)C(=O)OCC)(F)F | C7H6F3NO2S
solvent | water | 25 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 2-trifluoromethyl-4-hydroxymethylthiazole | 1.1 g | FC(C=1SC=C(N1)CO)(F)F | C5H4F3NOS
